### PR TITLE
[Merged by Bors] - feat: Extra `sups` lemmas

### PR DESCRIPTION
**Pull request by YaelDillies**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Sups.lean [hunk 1]
```diff
@@ -32,18 +32,28 @@ We define the following notation in locale `FinsetFamily`:
...
+namespace Finset
+variable {α : Type*} [Preorder α] [@DecidableRel α (· ≤ ·)] {s : Finset α}
+
+instance decidablePredMemUpperClosure : DecidablePred (· ∈ upperClosure (s : Set α)) :=
+  fun _ ↦ decidableExistsAndFinset
+
+instance decidablePredMemLowerClosure : DecidablePred (· ∈ lowerClosure (s : Set α)) :=
+  fun _ ↦ decidableExistsAndFinset
+
+end Finset
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sups.lean:45]: Yes, you could add a general `DecidablePred (· ∈ lowerClosure)` instance that assumes the unfolded statement is decidable, right next to the definition of `lowerClosure`.

File: Mathlib/Data/Finset/Sups.lean [hunk 2]
```diff
@@ -178,6 +188,21 @@ theorem subset_sups {s t : Set α} :
   subset_image₂
 #align finset.subset_sups Finset.subset_sups
 
+lemma image_sups (f : F) (s t : Finset α) : image f (s ⊻ t) = image f s ⊻ image f t :=
+  image_image₂_distrib $ map_sup f
+
+lemma map_sups (f : F) (hf) (s t : Finset α) :
+    map ⟨f, hf⟩ (s ⊻ t) = map ⟨f, hf⟩ s ⊻ map ⟨f, hf⟩ t := by
+  simpa [map_eq_image] using image_sups f s t
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sups.lean:196]: I think the awkward `map ⟨f, hf⟩` phrasing combined with the fact this assumes `[DecidableEq β]` means this lemma is probably never going to be useful.

File: Mathlib/Data/Finset/Sups.lean [hunk 3]
```diff
@@ -178,6 +188,21 @@ theorem subset_sups {s t : Set α} :
...
+
+lemma subset_sups_self : s ⊆ s ⊻ s := λ _a ha ↦ mem_sups.2 ⟨_, ha, _, ha, sup_idem⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sups.lean:198]:
```suggestion
lemma subset_sups_self : s ⊆ s ⊻ s := fun _a ha ↦ mem_sups.2 ⟨_, ha, _, ha, sup_idem⟩
```

File: Mathlib/Order/UpperLower/Basic.lean [hunk 4]
```diff
@@ -1330,6 +1330,12 @@ theorem coe_lowerClosure (s : Set α) : ↑(lowerClosure s) = ⋃ a ∈ s, Iic a
   simp
 #align coe_lower_closure coe_lowerClosure
 
+instance instDecidablePredMemUpperClosure [DecidablePred (∃ a ∈ s, a ≤ ·)] :
+    DecidablePred (· ∈ upperClosure (s : Set α)) := ‹DecidablePred _›
+
+instance instDecidablePredMemLowerClosure [DecidablePred (∃ a ∈ s, · ≤ a)] :
+    DecidablePred (· ∈ lowerClosure (s : Set α)) := ‹DecidablePred _›
```
Comment (eric-wieser) [inline Mathlib/Order/UpperLower/Basic.lean:1337]:
```suggestion
instance instDecidablePredMemUpperClosure [DecidablePred (∃ a ∈ s, a ≤ ·)] :
    DecidablePred (· ∈ upperClosure s) := ‹DecidablePred _›

instance instDecidablePredMemLowerClosure [DecidablePred (∃ a ∈ s, · ≤ a)] :
    DecidablePred (· ∈ lowerClosure s) := ‹DecidablePred _›
```
since `s` is already a set here, right?

File: Mathlib/Order/SupClosed.lean [hunk 5]
```diff
@@ -53,6 +54,8 @@ supClosed_sInter $ forall_range_iff.2 hf
 lemma SupClosed.directedOn (hs : SupClosed s) : DirectedOn (· ≤ ·) s :=
 λ _a ha _b hb ↦ ⟨_, hs ha hb, le_sup_left, le_sup_right⟩
 
+lemma IsUpperSet.supClosed (hs : IsUpperSet s) :  SupClosed s := λ _a _ _b ↦ hs le_sup_right
```
Comment (eric-wieser) [inline Mathlib/Order/SupClosed.lean:57]:
```suggestion
lemma IsUpperSet.supClosed (hs : IsUpperSet s) : SupClosed s := fun _a _ _b ↦ hs le_sup_right
```

File: Mathlib/Data/Finset/Sups.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/Sups.lean:184]: At the point you're carrying around a separate `hf` assumption though, you can use `card_image` instead.

To be clear, I don't think this lemma does any harm, but I am surprised it helps you.

File: Mathlib/Data/Finset/Sups.lean [hunk 6]
```diff
@@ -178,6 +176,21 @@ theorem subset_sups {s t : Set α} :
...
+lemma image_sups (f : F) (s t : Finset α) : image f (s ⊻ t) = image f s ⊻ image f t :=
+  image_image₂_distrib $ map_sup f
+
+lemma map_sups (f : F) (hf) (s t : Finset α) :
+    map ⟨f, hf⟩ (s ⊻ t) = map ⟨f, hf⟩ s ⊻ map ⟨f, hf⟩ t := by
+  simpa [map_eq_image] using image_sups f s t
+
+lemma subset_sups_self : s ⊆ s ⊻ s := fun _a ha ↦ mem_sups.2 ⟨_, ha, _, ha, sup_idem⟩
+lemma sups_self_subset : s ⊻ s ⊆ s ↔ SupClosed (s : Set α) := sups_subset_iff
+@[simp] lemma sups_self : s ⊻ s = s ↔ SupClosed (s : Set α) := by simp [←coe_inj]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Sups.lean:188]: To distinguish these from the lemma above, I think they should end in `_iff`

Comment (eric-wieser) [reply Mathlib/Data/Finset/Sups.lean:188]: (and for the `Set` and `infs` versions)

File: Mathlib/Data/Set/Sups.lean [hunk 7]
```diff
@@ -170,6 +169,18 @@ theorem sups_inter_subset_right : s ⊻ (t₁ ∩ t₂) ⊆ s ⊻ t₁ ∩ s ⊻
...
+  image_image2_distrib $ map_sup f
+
+lemma subset_sups_self : s ⊆ s ⊻ s := λ _a ha ↦ mem_sups.2 ⟨_, ha, _, ha, sup_idem⟩
+lemma sups_self_subset : s ⊻ s ⊆ s ↔ SupClosed s := sups_subset_iff
+
+@[simp] lemma sups_self : s ⊻ s = s ↔ SupClosed s :=
+  subset_sups_self.le.le_iff_eq.symm.trans sups_self_subset
+
+lemma sep_sups_le (s t : Set α) (a : α) :
+    {b ∈ s ⊻ t | b ≤ a} = {b ∈ s | b ≤ a} ⊻ {b ∈ t | b ≤ a} := by ext; aesop
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Sups.lean:182]: Would it make sense to state this as `(s ⊻ t) \inter Iic a = ...`? Or is that less useful to you?

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Data/Finset/Sups.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Data/Finset/Sups.lean:188]: I'll go with `sups_self_eq`

File: Mathlib/Data/Set/Sups.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Data/Set/Sups.lean:182]: For the `Finset` version, I must use `filter` since my order isn't locally finite. For the `Set` version, I don't really mind, except that using `sep` is more consistent than intersecting with `Iic a`.

What do you think? (I don't think it's too important so I'll merge the PR as is, but I'll modify that file quite a lot in the next few weeks so I'm happy to change later)

**Comment by YaelDillies** [comment]
Thanks. That was quick!

bors merge
